US08859774B2
A solution of (R)-(1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone in dichloromethane (2.5 ml) (2.7 mL, ˜0.2 mmol) containing disiopropylethylamine (174 μL, 1 mmol) was added to 4-fluoro-phenyl sulfonyl chloride (48 mg, 0.25 mmol) and diisopropylethylamine (100 μL, 0.57 mmol) and the mixture stirred for 1.25 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel (gradient: 20-30% ethyl acetate in cyclohexane) to afford (R)-(1-(4-fluorophenyl)-6-((4-fluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone as a white solid (72 mg). LCMS (Method D, ESI): RT 5.32 min, m+H=533.0; 1H NMR (400 MHz, CDCl3): δ 8.62-8.63 (m, 1 H); 7.85-7.86 (m, 2 H); 7.69-7.70 (m, 2 H); 7.44-7.45 (m, 3 H); 7.28 (s, 1 H); 7.14 (dt, J=12.9, 8.5 Hz, 4 H); 6.48 (d, J=2.2 Hz, 1 H); 5.51 (dd, J=12.2, 2.1 Hz, 1 H); 4.29 (d, J=16.9 Hz, 1 H); 3.82-3.86 (m, 1 H); 2.84-2.86 (m, 2 H); 2.72 (d, J=12.2 Hz, 1 H); 2.46-2.51 (m, 2 H).

reactant | (R)-(1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCNC[C@]1(C2)C(=O)C2=NC=CC=C2 | C22H19FN4O
reactant | dichloromethane | ˜0.2 mmol, 2.5 ml | ClCCl | CH2Cl2
reactant | 4-fluoro-phenyl sulfonyl chloride | 0.25 mmol, 48 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | diisopropylethylamine | 0.57 mmol, 100 μL | C(C)(C)N(CC)C(C)C | C8H19N
product | (R)-(1-(4-fluorophenyl)-6-((4-fluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | 72 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C2=NC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)F | C28H22F2N4O3S
